US06222034B1
a) 2-Ethoxymethyleneamino-3-cyano-6-methyl-4, 5,6,7-tetrahydrothieno[2,3-c]pyridine
46.0 g (238 mmol) of 2-amino-3-cyano-6-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine in 250 ml of triethyl orthoformate were mixed with 3.5 ml of acetic anhydride and refluxed under nitrogen for 4 h. The mixture was then filtered hot under suction, and the filtrate was completely evaporated in a rotary evaporator at 80° C. The residue was taken up in 300 ml of methyl t-butyl ether and heated to boiling. After removal of the insoluble solids by filtration with suction, 45.4 g (77%) of product crystallized on stirring in an ice bath. 1.7 g (3%) of product were obtained as second fraction from the mother liquor. Melting point: 88-89° C.

reactant | 2-amino-3-cyano-6-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 238 mmol, 46.0 g | NC1=C(C2=C(CN(CC2)C)S1)C#N | C9H11N3S
reactant | acetic anhydride | 3.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethyl orthoformate | 250 ml | C(OCC)(OCC)OCC | C7H16O3
product | 2-Ethoxymethyleneamino-3-cyano-6-methyl-4, 5,6,7-tetrahydrothieno[2,3-c]pyridine | 1.7 g, 3% | C(C)OC=NC1=C(C2=C(CN(CC2)C)S1)C#N | C12H15N3OS
